US07759519B2
Description 9: Methyl 3-amino-2-(aminomethyl)propionate bis-hydrochloride (12)
A stirring suspension of 10% palladium on carbon (2.0 g) in a solution of the sodium salt of methyl dicyanoacetate (1.00 g, 6.20 mmol) in methanol (100 mL) containing concd hydrochloric acid (32%, 2.0 mL) was hydrogenated at 5 bar and rt. for 24 h. The catalyst was removed by filtration and the solvent was evaporated in vacuo. The residue was treated with methanol (50 mL) and the precipitated sodium chloride was removed by filtration. The solution was concentrated to a low volume in vacuo and then EtOAc was added to precipitate the bis-hydrochloride 12 as an off-white solid (1.20 g).

reactant | sodium | [Na] | Na
reactant | methyl dicyanoacetate | 6.20 mmol, 1.00 g | C(#N)C(C(=O)OC)C#N | C5H4N2O2
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | Methyl 3-amino-2-(aminomethyl)propionate bis-hydrochloride | Cl.Cl.NCC(C(=O)OC)CN | InChI=1S/C5H12N2O2.2ClH/c1-9-5(8)4(2-6)3-7;;/h4H,2-3,6-7H2,1H3;2*1H
